US08252817B2
(6-Hydrazinopyridin-3-yl)methanol
20.0 g (139 mmol) (6-chloropyridin-3-yl)methanol are heated under reflux overnight in 400 ml of a 35% strength aqueous hydrazine hydrate solution. The mixture is concentrated, toluene is added, the mixture is concentrated again and the residue is stirred with a mixture of methylene chloride, methanol and diethyl ether. The crystalline residue (hydrazine hydrochloride) is filtered off, the filtrate is concentrated and the residue is dried in vacuo.

reactant | (6-chloropyridin-3-yl)methanol | 139 mmol, 20.0 g | ClC1=CC=C(C=N1)CO | C6H6ClNO
reactant | hydrazine hydrate | O.NN
product | (6-Hydrazinopyridin-3-yl)methanol | N(N)C1=CC=C(C=N1)CO | C6H9N3O
